US09079894B2
To the mixture of 1-isopropyl-1H-indazole-3-carboxylic acid hydrazide (120 mg, 0.55 mmol) and (1-cyclobutyl piperidin-4-yl) acetic acid hydrochloride (147 mg, 0.74 mmol, obtained in preparation 6) cooled at 0° C., was added phosphoryl chloride (1.5 mL). The reaction temperature was gradually raised to 100° C. and stirred was 2 hours. Upon completion of the reaction, it was cooled to 0° C. and triturated with hexanes (3×25 mL). The crude product was cooled to 0° C., basified with aqueous sodium hydroxide solution and extracted with 5% methanol in dichloromethane. The combined organic layer was dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure. The crude product was purified by silica gel column chromatography to obtain 3-[5-(1-cyclobutyl piperidin-4-yl methyl)-[1,3,4]oxadiazol-2-yl]-1-isopropyl-1H-indazole (62 mg)

reactant | 1-isopropyl-1H-indazole-3-carboxylic acid hydrazide | 0.55 mmol, 120 mg | C(C)(C)N1N=C(C2=CC=CC=C12)C(=O)NN | C11H14N4O
reactant | (1-cyclobutyl piperidin-4-yl) acetic acid hydrochloride | 0.74 mmol, 147 mg | Cl.C1(CCC1)N1CCC(CC1)CC(=O)O
reactant | phosphoryl chloride | 1.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[5-(1-cyclobutyl piperidin-4-yl methyl)-[1,3,4]oxadiazol-2-yl]-1-isopropyl-1H-indazole | 62 mg, Yield: 30% | C1(CCC1)N1CCC(CC1)CC1=NN=C(O1)C1=NN(C2=CC=CC=C12)C(C)C | C22H29N5O
